US07714140B2
In 6 ml of acetonitrile were dissolved 0.62 g (3.10 mmol) of 3-chloro-1,2-benzoisothiazole 1,1-dioxide and 0.57 g (3.10 mmol) of the (3,4-dichloroisothiazol-5-yl)methanol. To the resulting solution was dropwise added 0.34 g (3.4 mmol) of triethylamine, followed by stirring at room temperature for 5 hours to give rise to a reaction. After the completion of the reaction, 12 ml of water was added. The resulting crystals were obtained by filtration. The crystals were washed with water and isopropyl alcohol to obtain 0.89 g (yield: 82%) of 3-(3,4-dichloroisothiazol-5-ylmethoxy)-1,2-benzoisothiazole 1,1-dioxide as a colorless powder (melting point: 165 to 167° C.).

reactant | 3-chloro-1,2-benzoisothiazole 1,1-dioxide | 3.10 mmol, 0.62 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | (3,4-dichloroisothiazol-5-yl)methanol | 3.10 mmol, 0.57 g | ClC1=NSC(=C1Cl)CO | C4H3Cl2NOS
reactant | triethylamine | 3.4 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
reactant | water | 12 ml | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 3-(3,4-dichloroisothiazol-5-ylmethoxy)-1,2-benzoisothiazole 1,1-dioxide | 0.89 g, yield: 82% | ClC1=NSC(=C1Cl)COC1=NS(C2=C1C=CC=C2)(=O)=O | C11H6Cl2N2O3S2
